US07763608B2
5-chloro-N-((1-(4-(3-hydroxy-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (42)
To a solution of 5-chloro-N-((1-(4-(3-methoxy-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (75 mg, 0.14 mmol) in CH2Cl2 (4 mL), BBr3 (0.365 mL, 3.8 mmol) was added. The mixture was stirred at room temperature for 1 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (40 mg). MS 427.0 and 429.0 (M+H, Cl pattern).

reactant | 5-chloro-N-((1-(4-(3-methoxy-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 0.14 mmol, 75 mg | ClC1=CC=C(S1)C(=O)NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C(=CC=C1)OC)=O | C21H17ClN4O3S
reactant | BBr3 | 3.8 mmol, 0.365 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-((1-(4-(3-hydroxy-2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 40 mg | ClC1=CC=C(S1)C(=O)NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C(=CC=C1)O)=O | C20H15ClN4O3S
